US08420670B2
19.1 [2-(4-Chloro-2-methylquinolin-8-yloxy)-ethyl]-carbamate tert-butyl ester
0.6 g Sodium hydride, free of paraffin, was suspended in dimethyl acetamide (50 mL), then 4-chloro-2-methylquinoline-8-ol (1.6 g, 8.26 mmole) was added at RT and the mixture was stirred for 1 h. 2-(boc-amino)ethylbromide was added dropwise and the mixture was kept on stirring for 48 hrs. The content of the flask was poured into half concentrated NaCl solution and extracted with ethyl acetate. The organic phases were washed with water and saturated NaCl solution, dried and concentrated. Dimethyl acetamide was removed in vacuo and the residue was precipitated from isopropyl ether to give a light fawn solid (2.50 g, 90%).

reactant | Sodium hydride | 0.6 g | [H-].[Na+]
reactant | 4-chloro-2-methylquinoline-8-ol | 8.26 mmole, 1.6 g | ClC1=CC(=NC2=C(C=CC=C12)O)C | C10H8ClNO
reactant | 2-(boc-amino)ethylbromide | C(=O)(OC(C)(C)C)NCCBr | C7H14BrNO2
reactant | NaCl | [Na+].[Cl-]
solvent | dimethyl acetamide | 50 mL | CC(=O)N(C)C | C4H9NO
product | [2-(4-Chloro-2-methylquinolin-8-yloxy)-ethyl]-carbamate tert-butyl ester | 2.50 g, 90% | C(C)(C)(C)OC(NCCOC=1C=CC=C2C(=CC(=NC12)C)Cl)=O | C17H21ClN2O3
